US05708008
5-(6-chloropyridine-3-carbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 7.0 mg (0.03 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 14.2 mg (0.09 mMol) 6-chloropyridine-3-carboxylic acid, 4.4 mg (40%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.03 mMol, 7.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 6-chloropyridine-3-carboxylic acid | 0.09 mMol, 14.2 mg | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
product | 5-(6-chloropyridine-3-carbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 4.4 mg, 40% | ClC1=CC=C(C=N1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H21ClN4O
